* EPC GaN FETs model modified for Xyce.
* Need to fix non linear charge model to play nice with Xyce

.subckt EPC2034 gatein drainin sourcein
.param aWg=1423 A1=50.671 k2=2.3904 k3=0.15 rpara=0.0057993 rpara_s_factor=0.15
 + aITc=0.004067 arTc=-0.0083 k2Tc=0.00098 x0_0=2.1411 x0_1=0 x0_1_TC=0
 + dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
 + ags1=9.4978e-10 ags2=4.8825e-10 ags3=1.8529 ags4=0.13522
 + ags5=-2.1168e-14 ags6=-0.70387 ags7=0.52608
 + agd1=1.5053e-15 agd2=1.6904e-11 agd3=-0.17233 agd4=35.559
 + agd5=1.3365e-10 agd6=-9.6119 agd7=3.0282
 + agd8=2.6875e-12 agd9=-43.198 agd10=4643.8
 + asd1=3.6784e-10 asd2=9.9605e-10 asd3=-17.119 asd4=1.3382
 + asd5=7.0345e-10 asd6=-0.12876 asd7=46.843 rg_value=0.5

rd drainin drain {((1-rpara_s_factor)*rpara*(1-arTc*(Temp-25)))}
rs sourcein source {(rpara_s_factor*rpara*(1-arTc*(Temp-25)))}
rg gatein gate {(rg_value)}

Rcsdconv drain source {100000Meg/aWg}
Rcgsconv gate source {100000Meg/aWg}
Rcgdconv gate drain {100000Meg/aWg}

bswitch drain source I={if(v(drain,source)>0,
+	(A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(drain,source)/(1 + x0_0*v(drain,source))),
+	(-A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(source,drain)/(1 + x0_0*v(source,drain))))}

bgsdiode gate source I={if( v(gate,source)>10,
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1))))}

bgddiode gate drain I={if( v(gate,drain)>10,
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )}


C_GS       	gate source  {ags1}  TC=0,0
*C_CGS1     	gate source C={(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
*+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )/v(gate,source)}

C_GD      	gate drain  {agd1}  TC=0,0
*C_CGD1    	gate drain C={(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
*+	        agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
*+           agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
*+           agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)))/v(gate,drain)}

C_SD       	source drain  {asd1}  TC=0,0
*C_CSD1	source drain C={(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
*+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7)) )/v(source,drain)}

.ends

.subckt EPC2012C gatein drainin sourcein
.param aWg=146 A1=4.6405 k2=2.0977 k3=0.15 rpara=0.057945 rpara_s_factor=0.15
 + aITc=0.004536 arTc=-0.0063 k2Tc=0.00056 x0_0=1.6719 x0_1=4.9768e-07 x0_1_TC=0
 + dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
 + ags1=9.9405e-11 ags2=5.8214e-11 ags3=1.9915 ags4=0.20221
 + ags5=-1.9033e-13 ags6=-2.536 ags7=1.9229
 + agd1=2.9188e-13 agd2=8.3818e-12 agd3=-0.87269 agd4=1.1499
 + agd5=1.5216e-11 agd6=-5.5931 agd7=5.6988
 + agd8=1.8161e-12 agd9=-19.731 agd10=27.892
 + asd1=4.7223e-11 asd2=9.278e-11 asd3=-18.906 asd4=5.9691
 + asd5=1.2349e-10 asd6=-0.80227 asd7=52.88 rg_value=0.6

rd drainin drain {((1-rpara_s_factor)*rpara*(1-arTc*(Temp-25)))}
rs sourcein source {(rpara_s_factor*rpara*(1-arTc*(Temp-25)))}
rg gatein gate {(rg_value)}

Rcsdconv drain source {100000Meg/aWg}
Rcgsconv gate source {100000Meg/aWg}
Rcgdconv gate drain {100000Meg/aWg}

bswitch drain source I={if(v(drain,source)>0,
+	(A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(drain,source)/(1 + max(x0_0+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,source),0.2)*v(drain,source)) ),
+	(-A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(source,drain)/(1 + max(x0_0+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,drain),0.2)*v(source,drain)) ) )}

bgsdiode gate source I={if( v(gate,source)>10,
+	(0.5*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.5*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1)))   )}

bgddiode gate drain I={if( v(gate,drain)>10,
+	(0.5*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.5*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )}


C_GS       	gate source  {ags1}  TC=0,0
*C_CGS1     	gate source Q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
*+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD      	gate drain  {agd1}  TC=0,0
*C_CGD1    	gate drain Q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
*+	        agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
*+           agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
*+           agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)))

C_SD       	source drain  {asd1}  TC=0,0
*C_CSD1	source drain Q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
*+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7)) )

.ends

*****************************************************************************
.subckt EPC2047 gatein drainin sourcein
.param aWg=1083 A1=29.635 k2=2.6153 k3=0.155 rpara=0.0047614 rpara_s_factor=0.23
 + aITc=0.00348 arTc=-0.0058 k2Tc=0.0009 x0_0=2 x0_1=-0.25 x0_0_TC=-0.004 x0_1_TC=0
 + dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
 + ags1=8.6923e-10 ags2=6.4779e-10 ags3=1.8122 ags4=0.16934
 + ags5=-1.5684e-10 ags6=-8.7568 ags7=7.0277
 + agd1=6.5618e-15 agd2=9.9309e-12 agd3=-11.084 agd4=119.45
 + agd5=1.1925e-10 agd6=-10.365 agd7=4.7532
 + agd8=9.9723e-13 agd9=-132.36 agd10=30.555
 + asd1=3.0434e-10 asd2=3.5461e-10 asd3=-0.84421 asd4=82.226
 + asd5=6.1413e-10 asd6=-19.432 asd7=2.6181 rg_value=0.5

rd drainin drain {((1-rpara_s_factor)*rpara*(1-arTc*(Temp-25)))}
rs sourcein source {(rpara_s_factor*rpara*(1-arTc*(Temp-25)))}
rg gatein gate {(rg_value)}

Rcsdconv drain source {100000Meg/aWg}
Rcgsconv gate source {100000Meg/aWg}
Rcgdconv gate drain {100000Meg/aWg}

bswitch drain source I={if(v(drain,source)>0,
+	(A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(drain,source)/(1 + (x0_0*(1-x0_0_TC*(Temp-25))+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,source))*v(drain,source)) ),
+	(-A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(source,drain)/(1 + (x0_0*(1-x0_0_TC*(Temp-25))+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,drain))*v(source,drain)) ) )}

bgsdiode gate source I={if( v(gate,source)>10,
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1))))}

bgddiode gate drain I={if( v(gate,drain)>10,
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )}


C_GS       	gate source  {ags1}  TC=0,0
* C_CGS1     	gate source Q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
* +	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD      	gate drain  {agd1}  TC=0,0
C_CGD1      gate drain  1.3e-11 TC=0,0
*C_CGD1    	gate drain Q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
*+	        agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
*+           agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
*+           agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)))

C_SD       	source drain  {asd1}  TC=0,0
* C_CSD1	source drain Q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
* +	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7)) )

.ends

*****************************************************************************
.subckt EPC2010C gatein drainin sourcein
.param aWg=600 A1=25.402 k2=2.3482 k3=0.15 rpara=0.0156 rpara_s_factor=0.15
 + aITc=0.004992 arTc=-0.0064 k2Tc=0.0006 x0_0=2.1476 x0_1=3.6201e-07 x0_1_TC=0
 + dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
 + ags1=3.8097e-10 ags2=2.2258e-10 ags3=1.9281 ags4=0.18872
 + ags5=-1.6423e-13 ags6=-2.3868 ags7=3.2345
 + agd1=1.3902e-12 agd2=4.1297e-11 agd3=-1.0928 agd4=0.83048
 + agd5=4.0456e-11 agd6=-7.3569 agd7=5.837
 + agd8=3.9811e-12 agd9=-36.746 agd10=28.007
 + asd1=1.7554e-10 asd2=3.8174e-10 asd3=-18.355 asd4=4.5715
 + asd5=4.911e-10 asd6=-0.78676 asd7=50.508 rg_value=0.4

rd drainin drain {((1-rpara_s_factor)*rpara*(1-arTc*(Temp-25)))}
rs sourcein source {(rpara_s_factor*rpara*(1-arTc*(Temp-25)))}
rg gatein gate {(rg_value)}

Rcsdconv drain source {100000Meg/aWg}
Rcgsconv gate source {100000Meg/aWg}
Rcgdconv gate drain {100000Meg/aWg}

bswitch drain source I={if(v(drain,source)>0,
+	(A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(drain,source)/(1 + max(x0_0+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,source),0.2)*v(drain,source)) ),
+	(-A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(source,drain)/(1 + max(x0_0+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,drain),0.2)*v(source,drain)) ) )}

bgsdiode gate source I={if( v(gate,source)>10,
+	(0.5*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.5*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1)))   )}

bgddiode gate drain I={if( v(gate,drain)>10,
+	(0.5*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.5*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )}


C_GS       	gate source  {ags1}  TC=0,0
* C_CGS1     	gate source Q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
* +	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD      	gate drain  {agd1}  TC=0,0
* C_CGD1    	gate drain Q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
* +	        agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
* +           agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
* +           agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)))

C_SD       	source drain  {asd1}  TC=0,0
C_CSD1      source drain  145e-12  TC=0,0
* C_CSD1	source drain Q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
* +	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7)) )

.ends
